US07977481B2
[5-(2-m-Tolylamino-pyrimidin-4-yl)-thiophen-2-yl]-carbamic acid tert-butyl ester was treated with 4 N HCl in 1,4-dioxane for 6 hours or 20% TFA in DCM for 2 hours. The solution was dried in vacuo to afford [4-(5-aminothiophen-2-yl)-pyrimidin-2-yl]-m-tolyl-amine HCl salt. The amine salt was also neutralized by drying down the HCl/dioxane solution, redissolving in EtOAc and washing with saturated NaHCO3 (2×) and brine (1×) and dried over Na2SO4. Concentrated and redissolved and dried down 2× from DCM to obtain an orange foam [4-(5-aminothiophen-2-yl)-pyrimidin-2-yl]-m-tolyl-amine (quantitative). MS: m/z 283 (M+H+).

reactant | [5-(2-m-Tolylamino-pyrimidin-4-yl)-thiophen-2-yl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC=1SC(=CC1)C1=NC(=NC=C1)NC=1C=C(C=CC1)C)=O | C20H22N4O2S
reactant | HCl | 4 N | Cl | ClH
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
solvent | DCM | C(Cl)Cl | CH2Cl2
product | [4-(5-aminothiophen-2-yl)-pyrimidin-2-yl]-m-tolyl-amine HCl salt | Cl.NC1=CC=C(S1)C1=NC(=NC=C1)NC=1C=C(C=CC1)C | InChI=1S/C15H14N4S.ClH/c1-10-3-2-4-11(9-10)18-15-17-8-7-12(19-15)13-5-6-14(16)20-13;/h2-9H,16H2,1H3,(H,17,18,19);1H
